US06720324B2
1-[3-(4-CHLOROBENZOYL)PROPYL]-4-BENZAMIDOPIPERIDINE:
A mixture of 3-(4-chlorobenzol)propyl bromide (640 mg, 2.45 mmol), 4-benzamidopiperidine (500 mg, 2.45 mmol) and K2CO3 (1.01 g, 7.34 mmol) in 50 ml of acetone was heated at reflux temperature for 48 h. The cooled reaction mixture was filtered to remove the solids, concentrated in vacuo, giving a yellow solid, which was purified by chromatography (MeOH/CHCl3, 5/95). The product (320 mg 33.9%) was isolated as a white powder: 1H NMR δ 1.46 (dq, J1=1.0 Hz, J2=8.4 Hz, 2H), 1.90-2.10 (m, 4H), 2.16 (m, 2H), 2.43 (t, J=6.9 Hz, 2H), 2.80-2.90 (m, 2H), 2.97 (t, J=6.9 Hz, 2H), 3.97 (m, 1H), 5.92 (d, J=7.8 Hz, 1H, N—H), 7.40-8.00 (m, 9H). The product was converted to the HCl salt and recrystallized from MeOH/Et2O, m.p. 243-244° C.; Anal. Calcd for C22H25ClN2O2+HCl+H2O: C, 60.15; H, 6.37; N, 6.37; Found: C, 60.18; H, 6.34; N, 6.29.

reactant | 4-benzamidopiperidine | 2.45 mmol, 500 mg | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | K2CO3 | 7.34 mmol, 1.01 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-[3-(4-CHLOROBENZOYL)PROPYL]-4-BENZAMIDOPIPERIDINE | ClC1=CC=C(C(=O)CCCN2CCC(CC2)NC(C2=CC=CC=C2)=O)C=C1 | C22H25ClN2O2
